US06313136B1
Synthesis of 8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid
8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxamide (0.02 g, 0.057 m mol) and sodium hydroxide (0.02 g, 0.29 mmol) were solved in ethanol (95%) (1 ml) and was refluxed for 20 h. The solvent was evaporated under reduced pressure and to the residue was added water (1 ml). The pH was adjusted to 5 by addition of acetic acid and the solid that precipitated was isolated by filtration, washed with water and dried to give 0.012 g (60%) of the title compound.

reactant | 8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxamide | 0.02 g | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)N)C(=C(N3)C)CO)C(=CC=C1)C | C20H24N4O2
reactant | sodium hydroxide | 0.29 mmol, 0.02 g | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxylic acid | 0.012 g, 60% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)O)C(=C(N3)C)CO)C(=CC=C1)C | C20H23N3O3
